US09034880B2
Preparation of the title compound was carried out according to General Method 8. p-Tolylhydrazine hydrochloride (2 g, 12.6 mmol), 2-phenyl ethyl bromide (1.7 ml, 12.6 mmol) and triethyl amine (1.7 mL, 12.6 mmol) in ethanol (6 ml) were stirred at 25° C. for 1 h after which the contents were heated at 80° C. for 2 h. The contents were cooled to 25° C., N-methyl-4-piperidone hydrochloride (2.87 g, 18.9 mmol) was added and heating was continued at 80° C. for 16 h. The contents were concentrated in vacuo, basified by adding saturated aqueous NaHCO3, and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified by silica gel chromatography (230-400 mesh) using ethyl acetate-hexane gradient to obtain 150 mg of 2,3,4,5-tetrahydro-2,8-dimethyl-5-phenethyl-1H-pyrido[4,3-b]indole. The free base was converted into its oxalate salt by treatment of oxalic acid (1 equiv) in anhydrous THF.

reactant | p-Tolylhydrazine hydrochloride | 12.6 mmol, 2 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | 2-phenyl ethyl bromide | 12.6 mmol, 1.7 ml | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | triethyl amine | 12.6 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | N-methyl-4-piperidone hydrochloride | 18.9 mmol, 2.87 g | Cl.CN1CCC(CC1)=O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2,3,4,5-tetrahydro-2,8-dimethyl-5-phenethyl-1H-pyrido[4,3-b]indole | 150 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC2=CC=CC=C2)CC1 | C21H24N2
